US08003806B2
(a) Ethyl 3-{6-[(3-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate
To a solution of ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate (200 mg, 647 μmol) in dichloromethane (15 mL) was added triethylamine (190 μL, 1.43 mmol) and 3-nitrobenzoyl chloride (264 mg, 1.43 mmol). The solution was stirred at room temperature for 96 hours, and DMAP (7.0 mg, 57 μmol) and 3-nitrobenzoyl chloride (120 mg, 647 μmol) was added, and the stirring continued at room temperature for 72 hours. Triethylamine (90 μL, 639 μmol), 3-nitrobenzoyl chloride (120 mg, 647 μmol) and DMAP (7.0 mg, 57 μmol) were then added. The solution was stirred at room temperature for 72 hours, evaporated in vacuo, and the residue purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (97:3), to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=5.52 min, MH+ 459].

reactant | ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | 647 μmol, 200 mg | NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C18H19N3O2
reactant | triethylamine | 1.43 mmol, 190 μL | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 1.43 mmol, 264 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 3-nitrobenzoyl chloride | 647 μmol, 120 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | Triethylamine | 639 μmol, 90 μL | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 647 μmol, 120 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | DMAP | 57 μmol, 7.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 57 μmol, 7.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl 3-{6-[(3-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | [N+](=O)([O-])C=1C=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C2)C=CC1 | C25H22N4O5
